US07776857B2
A round bottom flask was charged with N-(4-(7-(benzyloxy)-1,5-naphthyridin-4-yloxy)phenyl)-4-(4-chlorophenyl)phthalazin-1-amine (400 mg, 687 μmol), 10% Pd/C (73.1 mg, 687 μmol) and 3.4 mL MeOH. The flask was fitted with a hydrogen-filled balloon and the mixture was stirred overnight. The mixture was diluted with DCM and filtered through Celite. The filtrate was concentrated and the crude material was purified by reverse phase chromatography, Gilson, 10-90% 0.1% TFA/ACN in water over 15 min to provide 8-(4-(4-(4-chlorophenyl)phthalazin-1-ylamino)phenoxy)-1,5-naphthyridin-3-ol as a light yellow solid. MS: [M+H]=492.

reactant | N-(4-(7-(benzyloxy)-1,5-naphthyridin-4-yloxy)phenyl)-4-(4-chlorophenyl)phthalazin-1-amine | 687 μmol, 400 mg | C(C1=CC=CC=C1)OC1=CN=C2C(=CC=NC2=C1)OC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C1=CC=C(C=C1)Cl | C35H24ClN5O2
reactant | MeOH | 3.4 mL | CO | CH4O
reactant | hydrogen | [H][H] | H2
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | 687 μmol, 73.1 mg | [Pd] | Pd
product | 8-(4-(4-(4-chlorophenyl)phthalazin-1-ylamino)phenoxy)-1,5-naphthyridin-3-ol | ClC1=CC=C(C=C1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(OC=2C=CN=C3C=C(C=NC23)O)C=C1 | C28H18ClN5O2
